US06573293B2
{[4-Methyl-5-(5-methylsulfamoyl-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-3-carbonyl]-amino}-acetic Acid Ethyl Ester
A mixture of 5-methylaminosulfonyl-2-oxindole (0.06 g, 0.22 mmol), [(5-formyl-4-methyl-1H-pyrrole-3-carbonyl)-amino]-acetic acid ethyl ester (0.075 g, 0.27 mmol) and piperidine (2 drops) in ethanol (5 mL) was heated in a sealed tube at 90° C. for 12 hrs. After cooling, the precipitate was collected by vacuum filtration, washed with ethanol, triturated with dichloromethane/ether and dried to give 0.035 g (36%) of the title compound as a yellowish brown solid.

reactant | 5-methylaminosulfonyl-2-oxindole | 0.22 mmol, 0.06 g | CNS(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C9H10N2O3S
reactant | [(5-formyl-4-methyl-1H-pyrrole-3-carbonyl)-amino]-acetic acid ethyl ester | 0.27 mmol, 0.075 g | C(C)OC(CNC(=O)C1=CNC(=C1C)C=O)=O | C11H14N2O4
catalyst | piperidine | 2 drops | N1CCCCC1 | C5H11N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | {[4-Methyl-5-(5-methylsulfamoyl-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-1H-pyrrole-3-carbonyl]-amino}-acetic Acid Ethyl Ester | 0.035 g, 36% | C(C)OC(CNC(=O)C1=CNC(=C1C)C=C1C(NC2=CC=C(C=C12)S(NC)(=O)=O)=O)=O | C20H22N4O6S
